US07807690B2
(11a) 4-Bromo-2-triisopropylsilanyloxazole-5-carboaldehyde
To a mixture of N,N,N′-trimethylethylenediamine (2.86 g) and THF (80 mL) there were added dropwise a 2.6 M hexane solution of n-butyllithium (8.46 mL), and 2-triisopropylsilanyloxazole-5-carboaldehyde [CAS No. 869542-45-0] (5.08 g), in that order at −20° C. under a nitrogen atmosphere. After stirring the mixture at −20° C. for 3 hours, the 2.6 M hexane solution of n-butyllithium (8.46 mL) was again added dropwise, stirring was continued at −20° C. for 3 hours, and then the mixture was cooled to −75° C. and 1,2-dibromotetrafluoroethane (7.12 mL) was added. The mixture was returned to room temperature, and then ethyl acetate (300 mL) and an aqueous ammonium chloride solution (300 mL) were added. After sufficiently shaking the mixture, the organic layer was separated off and dried over anhydrous magnesium sulfate. The mixture was filtered to obtain a filtrate, and the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane mixture) to obtain the target compound (1.94 g) as a brown liquid.

reactant | N,N,N′-trimethylethylenediamine | 2.86 g | CN(CCNC)C | C5H14N2
reactant | n-butyllithium | 8.46 mL | C(CCC)[Li]
reactant | 2-triisopropylsilanyloxazole-5-carboaldehyde | C(C)(C)[Si](C=1OC(=CN1)C=O)(C(C)C)C(C)C | C13H23NO2Si
reactant | n-butyllithium | 8.46 mL | C(CCC)[Li]
reactant | 1,2-dibromotetrafluoroethane | 7.12 mL | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | 2.6 M | CCCCCC | C6H14
solvent | hexane | 2.6 M | CCCCCC | C6H14
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 4-Bromo-2-triisopropylsilanyloxazole-5-carboaldehyde | 1.94 g | BrC=1N=C(OC1C=O)[Si](C(C)C)(C(C)C)C(C)C | C13H22BrNO2Si
